US07449475B2
2-Methyl-1,3-benzoxazol-6-yl benzoate
To a stirred suspension of 2-methyl-1,3-benzoxazol-6-ol (2.99 g, 20 mmol) in dichloromethane (50 mL) was added triethylamine (4.05 g, 5.58 mL, 40 mmol). A solution of benzoyl chloride (3.09 g, 2.56 mL, 22 mmol) in dichloromethane (20 mL) was added dropwise over ca. 10 min. The reaction mixture was stirred at room temperature for 2.5 h, then washed with water (2×50 mL), and dried over Na2SO4, filtered and concentrated in vacuo to give the subtitled compound as a colourless solid (5.05 g, 20 mmol).

reactant | 2-methyl-1,3-benzoxazol-6-ol | 20 mmol, 2.99 g | CC=1OC2=C(N1)C=CC(=C2)O | C8H7NO2
reactant | triethylamine | 40 mmol, 5.58 mL, 4.05 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 22 mmol, 2.56 mL, 3.09 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-Methyl-1,3-benzoxazol-6-yl benzoate | 20 mmol, 5.05 g | C(C1=CC=CC=C1)(=O)OC1=CC2=C(N=C(O2)C)C=C1 | C15H11NO3
